US09447033B2
N-Benzyl-3-[benzyl-(1-methyl-1H-imidazole-4-sulfonyl)-amino]-benzamide (Method B)
3-[Benzyl-(1-methyl-1H-imidazole-4-sulfonyl)-amino]-benzoic acid (50 mg, 1.3 mmol), HATU (77 mg, 0.2 mmol), diisopropylethylamine (74 μL, 0.4 mmol) and benzylamine (22 μL, 0.2 mmol) were heated in dry acetonitrile under nitrogen as 60° C. for 18 hrs. After cooling, solvent was removed in vacuo and the residue purified by preparative TLC (100% ethyl acetate), to afford the title compound as a colourless oil (4.3 mg). HPLC retention time 5.46 min. Mass spectrum (ES+) m/z 462 (M+H).

reactant | 3-[Benzyl-(1-methyl-1H-imidazole-4-sulfonyl)-amino]-benzoic acid | 1.3 mmol, 50 mg | C(C1=CC=CC=C1)N(C=1C=C(C(=O)O)C=CC1)S(=O)(=O)C=1N=CN(C1)C | C18H17N3O4S
reactant | HATU | 0.2 mmol, 77 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.4 mmol, 74 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzylamine | 0.2 mmol, 22 μL | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Benzyl-3-[benzyl-(1-methyl-1H-imidazole-4-sulfonyl)-amino]-benzamide | 4.3 mg | C(C1=CC=CC=C1)NC(C1=CC(=CC=C1)N(S(=O)(=O)C=1N=CN(C1)C)CC1=CC=CC=C1)=O | C25H24N4O3S
